US08754114B2
Step 3: N-[3-(7-chloroimidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
A mixture of 7-chloro-3-iodoimidazo[1,2-b]pyridazine (1.40 g, 5.01 mmol), N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (1.76 g, 5.11 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (DCM) (1:1) (164 mg, 0.200 mmol), and potassium carbonate (2.08 g, 15.0 mmol) in 1,4-dioxane (15 mL) and water (5 mL) was degassed and recharged with nitrogen three times. The mixture was then heated and stirred at 60° C. overnight. After cooling, the mixture was diluted with ethyl acetate, washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was treated with DCM (3 mL) and acetonitrile (3 mL). The precipitate was collected by filtration and washed with acetonitrile, dried under vacuum to afford the desired product (0.988 g). The filtrate (mother liquid) was concentrated. The residue was purified by flash chromatography on a silica gel column with methanol in DCM (0-10%) to afford the additional product 0.17 g. The total product is 1.158 g (62.5%). LCMS (M+H)+: m/z=370.0/372.0.

reactant | 7-chloro-3-iodoimidazo[1,2-b]pyridazine | 5.01 mmol, 1.40 g | ClC1=CC=2N(N=C1)C(=CN2)I | C6H3ClIN3
reactant | N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 5.11 mmol, 1.76 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC(=O)NCC(F)(F)F)C | C15H20BF3N2O3
reactant | dichloromethane | 0.200 mmol, 164 mg | ClCCl | CH2Cl2
reactant | potassium carbonate | 15.0 mmol, 2.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-(7-chloroimidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 0.988 g | ClC1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C15H11ClF3N5O
